Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hypoxia, leukocytosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year-old woman residing at ___ 
___ with a history of HTN, T2DM and depression who is 
transferred due to lethargy, hypoxia and leukocytosis.  

Per nursing home notes, on ___ the patient was observed to be 
lethargic and to have a new hypoxia to 83% requiring 2L O2 to 
reach 93%. Labs were obtained revealing WBC 35.2. A CXR was 
obtained which was reportedly negative. The patient was started 
on levofloxacin 500mg. On ___ in the morning her WBC was 38.4. 
The patient's HCP was called and her HCP was activated leading 
to inactivation of her Do not hospitalize order, thus the 
patient was transferred to ___.  
 
 In the ED, initial vitals were: 99.0 | 104 | 94/52 | 16 | 100% 
NRB  
 -ED exam: A&Ox1, TTP in lower abdomen, poor respiratory effort  

 -EKG: sinus tachycardia to 106, no ST-T changes  
 -Labs: WBC 34.4, 11% bands, Hb 9.2, Cr 1.2 (up from 0.9 on 
___, alb 3.1, lactate 2, VBG pCO2 49, UA WBC 13, RBC 6, nit 
(-)  
 -CXR: "Lung volumes are quite low which limits assessment. 
There is lower lung atelectasis. "  
 -CT Abd/Pel: "Partially imaged bibasilar airspace opacities may 
reflect atelectasis but pneumonia is not completely excluded. 
Large fecal loading."  
-CT Chest:   
1. Mild ___ nodularity and consolidation in the right 
lower lobe likely reflects a combination of infection and 
atelectasis. 
2. Left basilar consolidation is more likely representative of 
atelectasis. 
3. Coronary atherosclerotic disease. 
4. Pulmonary arterial enlargement suggests underlying pulmonary 
arterial hypertension. 
 

 On the floor, the patient appears comfortable. She endorses 
mild dyspnea, but otherwise denies chest pain, abdominal pain, 
diarrhea, constipation. Further review of systems is limited by 
the patients mental statys  
 

 
Past Medical History:
 -Dementia  
 -Major depressive disorder  
 -Type 2 Diabetes Mellitus  
 -HTN  
 -Chronic Pain Syndrome  
 
Social History:
___
Family History:
 Unable to obtain.  
 
Physical Exam:
PHYSICAL EXAM UPON ADMISSION:
 Vital Signs: 97.2 128/69 85 98% 3L  
 General: Chronically-ill appearing, pale, in no acute distress  

 HEENT: Sclera anicteric, pale conjunctiva, dry MMM  
 CV: Regular tachycardic heart sounds, normal S1 + S2, no 
murmurs, rubs, gallops  
 Lungs: No muscular retractions. Poor respiratory effort. 
Crackles at the bases on posterior auscultation.  
 Abdomen: Non-distended, obese, old well-healed bilateral 
subcostal and median infra-umbilical incisions. Soft and 
non-tender.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, 2+ bilateral pitting edema 
 
 Neuro: Alert, oriented to self, inattentive and circumstantial 
with occasional paraphrases. Able to move four extremities at 
will but with poor effort.  
 Skin: Faint erythema in the abdomen-groin fold  

PHYSICAL EXAM UPON DISCHARGE:
 Vital Signs: 97.6 153/72 93 20 97 2.5 L
 General: Chronically-ill appearing, pale, in no acute distress  

 HEENT: Sclera anicteric, pale conjunctiva, dry MMM  
 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Difficult to auscultate with very poor air movement and 
shallow breathing.  
 Abdomen: Non-distended, obese, soft, nontender to palpation. No 
rebound or guarding.  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, 2+ bilateral pitting edema 
(L?R). L foot is everted.   
 Neuro: Alert, knows she is in hospital but doesn't know name of 
hospital,  oriented to self, does not know year, inattentive and 
circumstantial with occasional paraphrases. Able to move her UE 
with ___ strength in legs B/L. Smile is mildly asymmetric 
(reduced movement on L side, intermittent), sensation to touch 
on the face is intact in all three CN 5, able to close both 
eyes, tongue is symmetric,hearing is reduced, forehead movement 
is symmetric
 Skin: Faint erythema in the abdomen-groin fold

 
Pertinent Results:
ADMISSION LABS:
===================
___ 03:00PM BLOOD WBC-34.4* RBC-2.88* Hgb-9.2* Hct-29.2* 
MCV-101* MCH-31.9 MCHC-31.5* RDW-17.0* RDWSD-62.9* Plt ___
___ 03:00PM BLOOD Hypochr-2+ Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-OCCASIONAL 
Polychr-OCCASIONAL Ovalocy-OCCASIONAL Schisto-OCCASIONAL 
Stipple-OCCASIONAL Tear ___
___ 03:00PM BLOOD Plt Smr-NORMAL Plt ___
___ 03:00PM BLOOD Glucose-471* UreaN-38* Creat-1.2* Na-139 
K-3.8 Cl-100 HCO3-28 AnGap-15
___ 03:00PM BLOOD Albumin-3.1*
___ 03:05PM BLOOD ___ pO2-57* pCO2-49* pH-7.43 
calTCO2-34* Base XS-6

DISCHARGE LABS:
==================

___ 07:22AM BLOOD WBC-10.1* RBC-2.97* Hgb-9.3* Hct-29.9* 
MCV-101* MCH-31.3 MCHC-31.1* RDW-16.6* RDWSD-61.8* Plt ___
___ 07:22AM BLOOD Plt ___
___ 07:22AM BLOOD Glucose-153* UreaN-20 Creat-0.4 Na-144 
K-3.4 Cl-105 HCO3-31 AnGap-11
___ 07:22AM BLOOD Calcium-8.9

OTHER LABS:
===================

___ 07:39AM BLOOD calTIBC-170* Hapto-213* Ferritn-699* 
TRF-131*

IMAGING:
====================
___, Chest Portable AP

AP portable upright view of the chest.   Lung volumes are quite 
low which 
limits assessment.  There is lower lung atelectasis.  The mid 
upper lungs 
appear well aerated.  There is a calcified structure projecting 
over the 
mediastinum and left apex, question thyroid lesion, not fully 
assessed.  Heart 
size cannot be assessed.  Mediastinal contour appears normal.  
There is 
bronchovascular crowding at the hila mostly noted on the right.  
Bony 
structures are intact.  Vertebroplasty changes are noted in the 
lower 
thoracic/upper lumbar spine. 

___, CT abdomen and pelvis

IMPRESSION: 
1. 2.2 x 1.8 cm hypodense lesion in the uncinate process of the 
pancreas, most likely reflective of a cystic neoplasm.  Further 
assessment with MRCP is recommended. 
2. Partially imaged bibasilar airspace opacities may reflect 
atelectasis but pneumonia is not completely excluded. 
3. Diverticulosis without evidence of diverticulitis. 
4. Multiple severe vertebral body compression deformities within 
the lower 
thoracic and upper lumbar spine.  Chronic left inferior pubic 
ramus fracture. 
5. Large fecal load within the rectum. 

___, CT chest
1. Mild ___ nodularity and consolidation in the right 
lower lobe 
likely reflects a combination of infection and atelectasis. 
2. Left basilar consolidation is more likely representative of 
atelectasis. 
3. Coronary atherosclerotic disease. 
4. Pulmonary arterial enlargement suggests underlying pulmonary 
arterial 
hypertension. 
 
Brief Hospital Course:
___ yo F living at ___ with T2DM, HTN, dementia presenting with 
lethargy, hypoxia and leukocytosis found to have HCAP.
 
# Leukocytosis:  Presented with a profound leukocytosis to 34.4 
with 84% polys and 10% bands. Smear per resident note-able for 
leukocytosis, bandemia, vacuolization, toxic granulation,  
platelet clumping with unremarkable RBCs. Normal neutrophil 
differentiation r/o etiology like CML. CT chest w/evidence of R 
base pneumonia.  Urine cx negative. CT a/p without evidence of 
infection. Blood cx pending. She was empirically covered 
overnight with Vanc/Zosyn > vanc/cefepime > ceftriaxone. She was 
then transitioned to PO cefpodoxime to complete 7 day course 
(end date ___.

# Health Care Associated Pneumonia with sepsis: Leukocytosis, 
fever, tachycardia, hypoxia, infectious source known, and ___ 
upon admission. Leukocytosis and hypoxia improved with treatment 
of HCAP as above. Pt discharged on PO cefpoxodime. 
 
 # ___: Resolved. Patient presented with ___, pre renal given 
improvement in IVF overnight   
 
 # Bilateral ___ edema: Unclear chronicity. BNP, checked in ED, 
is elevated though clinically no evidence of heart failure. Can 
consider further evaluation with ECHO upon discharge but no 
clinical indication at this time
 
 # Constipation/Fecal loading: Pt noted to have stool burden on 
CT A/P. Pt treated with bowel regimen had bowel movements during 
hospitalization.
 
# Dementia: Continued on home medications.

 # HTN: Initially held in the setting of sepsis but then 
restarted with clinical improvement. 

**Transitional issues**
-Complete seven day course for HCAP. Cefpodoxime 200 mg PO BID 
(end date ___ 
-Patient had elevated blood glucose during hospitalization. 
Consider outpatient A1C and initiation of metformin if 
appropriate.
-CT a/p was notable for cystic lesion in the pelvis. Radiology 
recommended f/u MRCP. Consider this imaging based on patient's 
goals of care. 
-Blood cx pending upon d/c, negative to date at discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
2. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
3. Aspirin 325 mg PO DAILY 
4. Calcium Carbonate 500 mg PO QID:PRN heartburn 
5. Docusate Sodium 100 mg PO DAILY 
6. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
7. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea, wheezing 

8. Fleet Enema ___AILY:PRN constipation 
9. guaiFENesin 100 mg/5 mL oral Q4H PRN cough/chest congestion 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Milk of Magnesia 30 mL PO DAILY PRN constipation 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Memantine 10 mg PO DAILY 
15. amLODIPine 10 mg PO DAILY 
16. nystatin 100,000 unit/gram topical BID PRN  rash 
17. Oyst-Cal-500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral daily 
18. Mirtazapine 15 mg PO QHS 
19. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
2. amLODIPine 10 mg PO DAILY 
3. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
4. Aspirin 325 mg PO DAILY 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Calcium Carbonate 500 mg PO QID:PRN heartburn 
7. Docusate Sodium 100 mg PO DAILY 
8. Fleet Enema ___AILY:PRN constipation 
9. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea, wheezing 

10. Memantine 10 mg PO DAILY 
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Milk of Magnesia 30 mL PO DAILY PRN constipation 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Vitamin D 1000 UNIT PO DAILY 
16. Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0
17. guaiFENesin 100 mg/5 mL oral Q4H PRN cough/chest congestion 
18. Mirtazapine 15 mg PO QHS 
19. nystatin 100,000 unit/gram topical BID PRN  rash 
20. Oyst-Cal-500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral daily 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Health care associated pneumonia
Acute kidney injury
Constipation

Secondary diagnoses:
Dementia
Hypertension

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - always.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,

Why did I come to the hospital?
-You came to the hospital because you were more tired and had a 
high white count indicating infection

What happened while I was in the hospital?
-We treated you with antibiotics

What should I do when I leave the hospital?
-Keep taking your antibiotics- you should continue cefpodoxime 
200 mg twice daily through ___. Start taking this 
medication on ___.

It was a pleasure taking care of you,
Your ___ Team
 
Followup Instructions:
___